US08211925B2
[2-(3,5-Diisopropoxy-benzoylamino)-thiazol-4-yl]acetic acid ethyl ester was prepared from 3,5-diisopropoxybenzoic acid (prepared as described in general synthetic descriptions B, using 2-bromopropane as alkylhalid) and ethyl 2-aminothiazol-4-ylacetate following synthetic description A.

reactant | 3,5-diisopropoxybenzoic acid | C(C)(C)OC=1C=C(C(=O)O)C=C(C1)OC(C)C | C13H18O4
reactant | ethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | [2-(3,5-Diisopropoxy-benzoylamino)-thiazol-4-yl]acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(C1=CC(=CC(=C1)OC(C)C)OC(C)C)=O)=O | C20H26N2O5S
